US08022222B2
Using the method of Example 32, 2-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid (0.1 g, 0.3055 mmol), triethylamine (0.2129 mL, 1.527 mmol), ethyl carbonochloridate (0.03213 mL, 0.3360 mmol), and histamine (0.1019 g, 0.9164 mmol) were reacted in THF (2 mL) to provide N-(2-(1H-imidazol-4-yl)ethyl)-2-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzamide dihydrochloride (0.084 g, 55.17% yield). 1H NMR (CDCl3) δ 8.38 (s, 1H), 8.08 (d, 1H), 7.76 (d, 1H), 7.51 (t, 1H), 7.39 (t, 1H), 7.06 (s, 1H), 7.02 (m, 2H), 6.89 (s, 1H), 6.55 (m, 2H), 3.81 (m, 2H), 3.16 (m, 2H), 2.45 (s, 3H); Mass spectrum (esi) m/z=421 (100) (M+H).

reactant | 2-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoic acid | 0.3055 mmol, 0.1 g | CC=1N=C(SC1)NC1=NC=CC(=C1)OC1=C(C(=O)O)C=CC=C1 | C16H13N3O3S
reactant | triethylamine | 1.527 mmol, 0.2129 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl carbonochloridate | 0.3360 mmol, 0.03213 mL | C(OCC)(=O)Cl | C3H5ClO2
reactant | histamine | 0.9164 mmol, 0.1019 g | NCCC1=CNC=N1 | C5H9N3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-(2-(1H-imidazol-4-yl)ethyl)-2-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzamide dihydrochloride | 0.084 g, 55.17% yield | Cl.Cl.N1C=NC(=C1)CCNC(C1=C(C=CC=C1)OC1=CC(=NC=C1)NC=1SC=C(N1)C)=O | InChI=1S/C21H20N6O2S.2ClH/c1-14-12-30-21(26-14)27-19-10-16(7-9-23-19)29-18-5-3-2-4-17(18)20(28)24-8-6-15-11-22-13-25-15;;/h2-5,7,9-13H,6,8H2,1H3,(H,22,25)(H,24,28)(H,23,26,27);2*1H
